US05958910
A solution of 26 g of 4-toluenesulfonyl-thiourea in 225 ml of ethanol was treated with 25.9 g of 2-bromo-1-(4-hydroxy-3-methyl-phenyl)-ethanone, left to stand at room temperature for 3 days and then boiled for a brief period. The reaction mixture was evaporated to dryness in a vacuum and subsequently partitioned between water and ethyl acetate. The aqueous phase was extracted once with ethyl acetate, the organic phases were combined, dried with sodium sulphate and concentrated. The residue was chromatographed on 500 g of Kieselgel 60 with ethyl acetate/hexane (1:1) as the eluent. The product-containing fractions were concentrated and, after recrystallization from 50% ethanol, yielded 10.1 g of N-[4-(4-hydroxy-3-methyl-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as colourless crystals.

reactant | 4-toluenesulfonyl-thiourea | 26 g | C1(=CC=C(C=C1)S(=O)(=O)NC(=S)N)C | C8H10N2O2S2
reactant | 2-bromo-1-(4-hydroxy-3-methyl-phenyl)-ethanone | 25.9 g | BrCC(=O)C1=CC(=C(C=C1)O)C | C9H9BrO2
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | N-[4-(4-hydroxy-3-methyl-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 10.1 g | OC1=C(C=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C17H16N2O3S2
